US04116956
To a mixture of 2.1 parts of 7-chloro-2-hydrazino-5-(p-methoxyphenyl)-3H-1,4-benzodiazepine, prepared in Example 2, 4.33 parts of ethyl orthoacetate and 60 parts by volume of ethanol is added dropwise 0.75 part by volume of concentrated sulfuric acid. The mixture is stirred for about 15 minutes. After completion of the reaction, the reaaction mixture is neutralized with a saturated aqueous solution of sodium bicarbonate, whereby 8-chloro-1-methyl-6-(p-methoxyphenyl)-4H-s-triazolo [4,3-a] [1,4] benzodiazepine is yielded as crystals. Recrystallization from a mixture of methanol and chloroform yields colorless needles melting at 268° C to 269° C.

reactant | 7-chloro-2-hydrazino-5-(p-methoxyphenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=C(C=C2)OC)C1 | C16H15ClN4O
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-methyl-6-(p-methoxyphenyl)-4H-s-triazolo [4,3-a] [1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=CC=C(C=C3)OC)C1 | C18H15ClN4O
